US07943748B2
(5) Synthesis of (3R,4R,5S,6R)-3,4,5-Trisbenzyloxy-6-benzyloxymethyl-2-[3-(5-ethylbenzo[b]thiophen-2-yl-methyl)naphthalen-1-yl]tetrahydropyran-2-ol
In a nitrogen stream, an n-butyllithium hexane solution (1.6 M, 0.83 ml, 1.33 mmol) was added dropwise to a solution of 2-(4-bromonaphtalen-2-ylmethyl)-5-ethylbenzo-[b]thiophene (460 mg, 1.21 mmol) in THF (15 ml) at −78° C. The reaction mixture was stirred at the same temperature for five minutes and to this solution, a solution of 3,4,5-trisbenzyloxy-6-benzyloxymethyltetrahydro-pyran-2-one (844 mg, 1.57 mmol) in THF (5 ml) was added dropwise. The reaction solution was stirred at −78° C. for five minutes and a saturated ammonium chloride aqueous solution was added to stop the reaction. The reaction mixture was extracted with ethyl acetate and the organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:9)] to obtain the title compound (1.06 mg, 100%).

reactant | n-butyllithium hexane | 1.33 mmol, 1.6 M, 0.83 ml | CCCCCC.C(CCC)[Li]
reactant | 2-(4-bromonaphtalen-2-ylmethyl)-5-ethylbenzo-[b]thiophene | 1.21 mmol, 460 mg | BrC1=CC(=CC2=CC=CC=C12)CC1=CC2=C(S1)C=CC(=C2)CC | C21H17BrS
reactant | 3,4,5-trisbenzyloxy-6-benzyloxymethyltetrahydro-pyran-2-one | 1.57 mmol, 844 mg | C(C1=CC=CC=C1)OC1C(OC(C(C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)=O | C34H34O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (3R,4R,5S,6R)-3,4,5-Trisbenzyloxy-6-benzyloxymethyl-2-[3-(5-ethylbenzo[b]thiophen-2-yl-methyl)naphthalen-1-yl]tetrahydropyran-2-ol | 1.06 mg, 100% | C(C1=CC=CC=C1)O[C@H]1C(O[C@@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)(O)C1=CC(=CC2=CC=CC=C12)CC1=CC2=C(S1)C=CC(=C2)CC | C55H52O6S
